US08937176B2
6.01.02.03 4-methoxy-6-piperazin-1-yl-pyrimidine hydrochlorid
9.8 g 4-(6-methoxy-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester was stirred in 100 mL 4 mol/L HCl solution in dioxane for 4 h. The precipitate was filtered and dried to yield 8.1 g of the desired compound. Rt: 0.22 min (method B), (M+H)+: 195

reactant | 4-(6-methoxy-pyrimidin-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 9.8 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC(=C1)OC | C14H22N4O3
reactant | HCl | 4 mol/L, 100 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-methoxy-6-piperazin-1-yl-pyrimidine hydrochlorid | 8.1 g | Cl.COC1=NC=NC(=C1)N1CCNCC1 | InChI=1S/C9H14N4O.ClH/c1-14-9-6-8(11-7-12-9)13-4-2-10-3-5-13;/h6-7,10H,2-5H2,1H3;1H
